US04022891
30 mg of 1α,3β,24-tribenzoyloxycholesta-5,7-diene was dissolved in 500 ml. of benzene, and the resulting solution was irradiated with ultraviolet rays in an atmosphere of argon at 10° C. for 2 minutes. After the reaction, isomerization was carried out for 2 hours in the argon atmosphere under reflux of benzene. After the reaction, most of the benzene was evaporated off at reduced pressure, and 2 ml. of 5% potassium hydroxide-methanol and 2 ml. of benzene were added to the residue. The mixture was maintained at room temperature for 28 hours in an atmosphere of argon to perform hydrolysis. The reaction product was diluted with water, and extracted with ethyl acetate. The ethyl acetate layer was repeatedly washed with water, and dried. The ethyl acetate was evaporated off at reduced pressure. The residue was subjected to the same separating and purifying procedure as in Example 20 to afford 1.9 mg of 1α,24-dihydroxycholecalciferol having the same properties as the product obtained in Example 20.

reactant | 1α,3β,24-tribenzoyloxycholesta-5,7-diene | 30 mg | C(C1=CC=CC=C1)(=O)O[C@H]1C[C@@H](CC2=CC=C3[C@@H]4CC[C@H]([C@@H](CCC(C(C)C)OC(C5=CC=CC=C5)=O)C)[C@]4(CC[C@@H]3[C@@]12C)C)OC(C1=CC=CC=C1)=O | C48H56O6
reactant | benzene | C1=CC=CC=C1 | C6H6
solvent | water | O | H2O
product | 1α,24-dihydroxycholecalciferol | 1.9 mg | C[C@H](CCC(C(C)C)O)[C@H]1CC[C@@H]\2[C@@]1(CCC/C2=C\C=C/3\C[C@H](C[C@@H](C3=C)O)O)C | C27H44O3
